US08802670B2
Reaction between 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde and 1-trifluoromethanesulfonyl-piperazine using procedure C yielded 2-chloro-4-morpholin-4-yl-6-(4-trifluoromethanesulfonyl-piperazin-1-ylmethyl)-thieno[3,2-d]pyrimidine. This compound was subjected to procedure A to yield the desired final compound which was purified using flash chromatography

reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | 1-trifluoromethanesulfonyl-piperazine | FC(S(=O)(=O)N1CCNCC1)(F)F | C5H9F3N2O2S
product | 2-chloro-4-morpholin-4-yl-6-(4-trifluoromethanesulfonyl-piperazin-1-ylmethyl)-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)S(=O)(=O)C(F)(F)F)N2CCOCC2 | C16H19ClF3N5O3S2
